### PR TITLE
refactor: remove rfsfun and refactor proofs

### PR DESCRIPTION
**Pull request by anton-trunov**
I realize this is a pretty big PR to review (sorry about that). It is the result of my attempts to make sense of `rfsfun` (which I unfortunately failed).
Instead I pursued the other direction and removed `rfsfun` altogether. Hence, it's debatable whether this PR needs to get merged but I believe the result is conceptually simpler code (which still can be streamlined more basing on this PR).

To ensure the `lab`, `fpred` and `frf` functions are defined over the same domain I merged those three functions into one function returning a triple.

I added some new lemmas and moved around a few existing lemmas and definition (e.g. `lloc` and `is_write` are in `eventstructure.v` now)  and also renamed some things.

---
This change is [Reviewable](https://reviewable.io/reviews/volodeyka/event-struct/56)

### CODE REVIEW

File: eventstructure.v [hunk 1]
```diff
@@ -76,164 +72,239 @@ Definition eq_label l l' :=
...
+Definition lloc (l : label) :=
+  match l with
+  | Write x _ => Some x
+  | Read  x _ => Some x
+  | _         => None
+  end.
+
+Definition is_read l := if l is (Read _ _) then true else false.
+
+Definition is_write l := if l is Write _ _ then true else false.
```
Comment (eupp) [inline eventstructure.v:93]: Good that you've moved it here, where it belongs :+1:

File: eventstructure.v [hunk 2]
```diff
@@ -76,164 +72,239 @@ Definition eq_label l l' :=
...
-  lab        : rfsfun (fun=> ThreadEnd) dom (fun _ _ => true);
-  ffpred     : rfsfun id dom (>=%O : rel E);
-  ffrf       : rfsfun id dom
-               [rel r w : E | (w <= r) &&
-               (((w == r) && ~~ is_read (lab r)) || ((lab w) << (lab r)))]
+  (* lprf stands for label, predecessor, reads-from *)
+  lprf       : {fsfun for fun e => (ThreadEnd, e, e)};
+  lab e      := (lprf e).1.1;  (* lab is 1st projection *)
+  fpred e    := (lprf e).1.2;  (* fpred is 2nd projection *)
+  frf e      := (lprf e).2;    (* frf is 3d projection *)
```
Comment (eupp) [inline eventstructure.v:120]: These projections do not look nice :(
Maybe instead of tuple, we'll define the `Record` with named fields?

File: eventstructure.v [hunk 3]
```diff
@@ -76,164 +72,239 @@ Definition eq_label l l' :=
...
+  _          : {subset (finsupp lprf) <= dom};
+  _          : forall e : E, fpred e <= e;
+  _          : forall r : E, let w := frf r in
+                 (w <= r) &&
+                 (((w == r) && ~~ is_read (lab r)) || ((lab w) << (lab r)));
```
Comment (eupp) [inline eventstructure.v:125]: We can split these two properties into two separate axioms

File: eventstructure.v [hunk 4]
```diff
@@ -76,164 +72,239 @@ Definition eq_label l l' :=
...
-(*     Event Types                                                           *)
-(* ************************************************************************* *)
+Lemma labE e : lab e = (lprf e).1.1.
+Proof. by []. Qed.
+
+Lemma fpredE e : fpred e = (lprf e).1.2.
+Proof. by []. Qed.
+
+Lemma frfE e : frf e = (lprf e).2.
+Proof. by []. Qed.
```
Comment (eupp) [inline eventstructure.v:145]: Also, related to the problem with projections, these lemmas a bit frustrating too

File: eventstructure.v [hunk 5]
```diff
@@ -265,125 +336,120 @@ Notation "x <c= y" := (@Order.le ev_display _ x y) (at level 0).*)
...
       fpred e2 < e2,
       ~~ is_thdstart (lab e1) &
       ~~ is_thdstart (lab e2)].
 
-Lemma icf_symm e1 e2: icf e1 e2 -> icf e2 e1.
-Proof. 
-  case/and5P=>*. 
-  by apply/and5P; split=> //; rewrite 1?eq_sym // andbC.
-Qed.
+Lemma icfxx x : icf x x = false.
```
Comment (eupp) [inline eventstructure.v:347]: A better name would be `icf_irrefl` (irreflexive)

File: eventstructure.v [hunk 6]
```diff
@@ -76,164 +72,239 @@ Definition eq_label l l' :=
...
+                 (w <= r) &&
+                 (((w == r) && ~~ is_read (lab r)) || ((lab w) << (lab r)));
 }.
 
 Section ExecEventStructure.
 
-Context {disp} {E : identType disp} (es : (fin_exec_event_struct E)).
+Context {disp} {E : identType disp} (es : fin_exec_event_struct E).
 
 Notation domain := (dom es).
```
Comment (eupp) [inline eventstructure.v:132]: Let the notation be the same as the definition, i.e. just `dom` instead of `domain`. 
Having the two names for the same thing is a bit confusing.

**Review by eupp — CHANGES_REQUESTED** [review]

**Comment by eupp** [comment]
@anton-trunov thanks for this PR. 

I liked the idea to enforce the same-domain constraint through the tuple-valued function. 
However, the use of (unnamed) projections worries me a bit. 
How can we get around it? 
Perhaps we can use a `Record` with meaningful names for fields (and also specify the types of the components, for clarity).

File: eventstructure.v (hunk 3 above)
Comment (anton-trunov) [reply eventstructure.v:125]: This is how it was formulated in the first place. How about we create an issue for it and handle in a separate PR? (I'm happy to be the assignee for the issue).

File: eventstructure.v (hunk 5 above)
Comment (anton-trunov) [reply eventstructure.v:347]: Mathcomp uses both `_irrefl` and `_irreflexive` suffixes and `xx` (without the underscore) is consistently used to both mean reflexivity and irreflexivity lemmas (e.g. there is `eqxx`, `lexx`, `ltxx` lemmas in `eqtype` and `order` libraries). I'd suggest to add `icf_irrefl` as an alias for `icfxx` (which is easier to use in rewrite chains) which is also something Mathcomp uses.

File: eventstructure.v (hunk 6 above)
Comment (anton-trunov) [reply eventstructure.v:132]: Agreed and fixed :)

File: eventstructure.v [hunk 7]
```diff
@@ -76,164 +72,239 @@ Definition eq_label l l' :=
...
   match w, r with
-  | (Write x a), (Read y b) => (x == y) && (a == b)
-  | _, _                    => false
+  | Write x a, Read y b => (x == y) && (a == b)
+  | _, _ => false
   end.
 
 Notation "w << r" := (write_read_from w r) (at level 0).
 
+Lemma rf_thdend w : w << ThreadEnd = false.
```
[the remark this answers is not in the document]
Comment (anton-trunov) [reply eventstructure.v]: Done.

**Comment by anton-trunov** [comment]
> I liked the idea to enforce the same-domain constraint through the tuple-valued function.
> However, the use of (unnamed) projections worries me a bit.
> How can we get around it?

Thanks for the review suggestion! Ok, let me make one more pass on the projections issue which admittedly I didn't want to invest much time into before having a general consensus on the rfsfun removal. I'll get back to this issue next week.

File: eventstructure.v (hunk 3 above)
Comment (eupp) [reply eventstructure.v:125]: > This is how it was formulated in the first place. How about we create an issue for it and handle in a separate PR? (I'm happy to be the assignee for the issue).

Ok, I see. 
I think it'll take more time to open an issue for this minor problem than just fixing it :)
I'll do that (perhaps after we'll merge this PR, so as to avoid unnecessary conflicts).

Comment (anton-trunov) [reply eventstructure.v:125]: Sure, I was thinking it might force us to refactor quite a few proofs but I'm happy to be wrong here :)

File: eventstructure.v [hunk 8]
```diff
@@ -76,166 +72,262 @@ Definition eq_label l l' :=
...
+(* lprf stands for label, predecessor, reads-from *)
+Record lab_pred_rfrom := Lprf {lab_prj : label; fpred_prj : E; frf_prj : E}.
+
+Definition prod_of_lprf lprf :=
+  let: Lprf l p rf := lprf in (l, p, rf).
+
+Definition lprf_of_prod p :=
+  let: (l, p, rf) := p in Lprf l p rf.
+
+Lemma prod_of_lprfK : cancel prod_of_lprf lprf_of_prod. Proof. by case. Qed.
```
Comment (eupp) [inline eventstructure.v:126]: Let's put `Proof/Qed` on the next line.

```suggestion
Lemma prod_of_lprfK : cancel prod_of_lprf lprf_of_prod. 
Proof. by case. Qed.
```

**Review by eupp — APPROVED** [review]

**Comment by anton-trunov** [comment]
@eupp Thanks for all the suggestions!
